US07666901B2
Preparation of Acetic acid 4-{[(2-dimethylamino-propyl)-ethyl-amino]-methylene}-6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-3,7-dioxo-1,3,4,7,10,11,12,13,14,15,16,17-dodecahydro-2-oxa-cyclopenta[a]phenanthren-11-yl ester
To a solution of the (3-dimethylaminopropyl)-ethyl-carbamic acid benzyl ester trifluoroacetate (0.84 g, 2.2 mmol) in ethanol (30 mL) and concentrated hydrochloric acid (0.5 mL, 6 mmol) was added palladium on carbon (10%, 50 mg). The suspension was shaken under 50 psi hydrogen. When the consumption of hydrogen was observed to have ceased, the mixture was filtered through a pad of diatomaceous earth and then concentrated under reduced pressure to give N′-ethyl-N,N-dimethylpropane-1,3-diamine dihydrochloride (400 mg, 89%) as a white solid. MS (ES+): m/z (M+H)=131.3 To a suspension of the N′-ethyl-N,N-dimethylpropane-1,3-diamine dihydrochloride (0.26 g, 1.3 mmol) in dichloromethane (5 mL) was added triethylamine (0.51 mL, 3.9 mmol). After stirring for 10 minutes, the mixture was treated with 17-hydroxywortmannin (0.28 g, 0.65 mmol). After stirring overnight at room temperature, the mixture was concentrated under reduced pressure and then purified by reverse-phase HPLC (employing a gradient elution of 5% acetonitrile/95% water to 95% acetonitrile over 45 minutes). The title compound was obtained as a rust-colored solid (11.6 mg). MS (ES+): m/z (M+H)=561.4.

reactant | N′-ethyl-N,N-dimethylpropane-1,3-diamine dihydrochloride | 1.3 mmol, 0.26 g | Cl.Cl.C(C)NCCCN(C)C
reactant | triethylamine | 3.9 mmol, 0.51 mL | C(C)N(CC)CC | C6H15N
reactant | 17-hydroxywortmannin | 0.65 mmol, 0.28 g | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Acetic acid 4-{[(2-dimethylamino-propyl)-ethyl-amino]-methylene}-6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-3,7-dioxo-1,3,4,7,10,11,12,13,14,15,16,17-dodecahydro-2-oxa-cyclopenta[a]phenanthren-11-yl ester | CN(C(CN(CC)C=C1C(OC(C2(C=3C(CC4(C(CCC4C3C(C(=C12)O)=O)O)C)OC(C)=O)C)COC)=O)C)C | C30H44N2O8
